US06706732B1
A 20% solution of sodium ethoxide in ethanol (27.7 g) was combined at room temperature with diethyl malonate (13.0 g) and then with 4-(2,5-difluorophenyl)-3-buten-2-one (13.8 g) in portions. The reaction mixture was stirred at room temperature for 30 minutes and then heated with stirring for 2 hours. After allowing to stand to cool, the solvent was distilled off, and the residue was combined with water, and the aqueous layer was washed with ethyl acetate and concentrated. 2N Sodium hydroxide (42 ml) was added and the mixture was heated under reflux for 2 hours. After allowing to stand to cool, 2.5 M sulfuric acid (42 ml) was added over a period of 10 minutes, and then the mixture was heated under reflux for 3 hours. After allowing to stand to cool, the precipitated crystal was recovered by a filtration and washed successively with water and isopropyl ether to obtain 5-(2,5-difluorophenyl)cyclohexane-1,3-dione (11.6 g) as a colorless crystal.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 13.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(2,5-difluorophenyl)-3-buten-2-one | 13.8 g | FC1=C(C=C(C=C1)F)C=CC(C)=O | C10H8F2O
solvent | ethanol | 27.7 g | C(C)O | C2H6O
product | 5-(2,5-difluorophenyl)cyclohexane-1,3-dione | 11.6 g | FC1=C(C=C(C=C1)F)C1CC(CC(C1)=O)=O | C12H10F2O2
